US06376519B1
1-(4-Sulfamylphenyl)-3-trifluoromethyl-5-(3-indolyl)-2-pyrazoline
A solution of trans-1,1,1-trifluoro-4-(3-indolyl)-3-buten-2-one (5 mmol) and 4-sulfamylphenyl hydrazine hydrochloride (6 mmol) was subjected to Procedure 3. The title compound was obtained in 82% yield, m.p. 178-180° C.; C, H analysis (C16H14SO2N4F3):

reactant | trans-1,1,1-trifluoro-4-(3-indolyl)-3-buten-2-one | 5 mmol | FC(C(\C=C\C1=CNC2=CC=CC=C12)=O)(F)F | C12H8F3NO
reactant | 4-sulfamylphenyl hydrazine hydrochloride | 6 mmol | Cl.S(N)(=O)(=O)C1=CC=C(C=C1)NN
product | 1-(4-Sulfamylphenyl)-3-trifluoromethyl-5-(3-indolyl)-2-pyrazoline | 82% yield | S(N)(=O)(=O)C1=CC=C(C=C1)N1N=C(CC1C1=CNC2=CC=CC=C12)C(F)(F)F | C18H15F3N4O2S
